US07893056B2
To a solution of (3S)-4-(5-fluoro-6-hydrazino-2-methyl-4-pyrimidinyl)-3-methylmorpholine (0.2123 g, 0.880 mmol) in DMF (4 mL) was added (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid, N,N-diisopropylethylamine salt, isopropanol solvate (327.1 mg, 0.661 mmol), N-methylmorpholine (0.290 ml, 2.64 mmol), 1-hydroxy-7-azabenzotriazole (0.108 g, 0.794 mmol), and EDC (0.152 g, 0.793 mmol). The solution was stirred overnight, and then purified directly by Gilson RPLC. To a solution of the residue in MeOH (7 mL) was added 10% Pd/C (50% water, 88 mg). The mixture was hydrogenated under balloon pressure for 1 h, and then filtered through a PTFE membrane. The resulting solution was concentrated in vacuo, dissolved in EtOAc, and concentrated in vacuo. The solid was collected by vacuum filtration and washed with hexanes to give [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[(3S)-3-methyl-4-morpholinyl]-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide (0.2326 g, 80% yield) as a white solid. LCMS: (M+H)+: 439.2.

reactant | (3S)-4-(5-fluoro-6-hydrazino-2-methyl-4-pyrimidinyl)-3-methylmorpholine | 0.880 mmol, 0.2123 g | FC=1C(=NC(=NC1NN)C)N1[C@H](COCC1)C | C10H16FN5O
reactant | isopropanol | 0.661 mmol, 327.1 mg | C(C)(C)O | C3H8O
reactant | N-methylmorpholine | 2.64 mmol, 0.290 ml | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy-7-azabenzotriazole | 0.794 mmol, 0.108 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 0.793 mmol, 0.152 g
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[(3S)-3-methyl-4-morpholinyl]-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide | 0.2326 g, 80% yield | C1(CCCC1)C[C@H](CN(C=O)O)C(=O)NNC1=NC(=NC(=C1F)N1[C@H](COCC1)C)C | C20H31FN6O4
